US06500835B2
Synthesis of 3-(3-aminobenzenesulfonyl)-7-chloro-2,4(1H,3H)-quinazolinedione (Compound 12)
3.5 g (12.9 mmol) of 3-t-butoxycarbonylaminobenzenesulfonamide and 3.9 g (12.8 mmol) of methyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 7 to obtain 2.2 g (yield 49%: 4 steps) of the above-identified compound. Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δ ppm, DMSO-d6): 5.72 (2H, s), 6.87 (1H, d), 7.12 (1H, s), 7.23-7.27 (2H, m), 7.33 (1H, s), 7.86 (1H, d), 11.61 (1H, s).

reactant | 3-t-butoxycarbonylaminobenzenesulfonamide | 12.9 mmol, 3.5 g | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1)S(=O)(=O)N | C11H16N2O4S
reactant | methyl 4-chloro-2-N-phenoxycarbonylanthranilate | 12.8 mmol, 3.9 g | ClC=1C=C(C(C(=O)OC)=CC1)NC(=O)OC1=CC=CC=C1 | C15H12ClNO4
product | 3-(3-aminobenzenesulfonyl)-7-chloro-2,4(1H,3H)-quinazolinedione | yield 49% | NC=1C=C(C=CC1)S(=O)(=O)N1C(NC2=CC(=CC=C2C1=O)Cl)=O | C14H10ClN3O4S
